US04968829
To sodium hydride (1.35 g, 56.2 mmol), prewashed in hexane, in 30 ml of DMF is added 4-nitrophenol in 5 ml of DMF at 15°. After anion formation is complete, ethyl N-chloroethylcarbamate (7.12 g, 47.0 mmol) is slowly added. The slurry is heated to 85° and stirred for 17 hours, after which the reaction is cooled to RT, poured into ice water and ether, and extracted with ether. The combined organic layers are washed with 10% sodium hydroxide, with water and with brine, dried and filtered and the solvent is removed by rotoevaporation to give ethyl N-[2-(4-nitrophenoxy)ethyl]carbamate.

reactant | sodium hydride | 56.2 mmol, 1.35 g | [H-].[Na+]
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | ethyl N-chloroethylcarbamate | 47.0 mmol, 7.12 g | ClCCNC(OCC)=O | C5H10ClNO2
reactant | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl N-[2-(4-nitrophenoxy)ethyl]carbamate | [N+](=O)([O-])C1=CC=C(OCCNC(OCC)=O)C=C1 | C11H14N2O5
